US03931255
120 ml of 37 percent by weight aqueous hydrochloric acid and 42 g (0.21 mol) of iron (II) chloride tetrahydrate are introduced into a reaction vessel and saturated with approximately 8 g of gaseous hydrogen chloride. 11 g of 5-nitro-1,4-naphthoquinone-1-oxime are introduced at a temperature of about 20° to 25°C. The reaction mixture is kept at the temperature indicated with stirring and, after 2 hours, is poured into 1,000 ml of water heated to approximately 40°C. followed by stirring for 30 minutes. The reaction product precipitated is then filtered off under suction, washed with water until neutral and dried at approximately 50°C. 5-Nitro-1,4-naphthoquinone melting at 161°C is thus obtained in a yield of 9.8 g (96 percent of the theoretical yield).

reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen chloride | approximately 8 g | Cl | ClH
reactant | 5-nitro-1,4-naphthoquinone-1-oxime | 11 g | [N+](=O)([O-])C1=C2C(C=CC(C2=CC=C1)=NO)=O | C10H6N2O4
reactant | water | 1,000 ml | O | H2O
catalyst | iron (II) chloride tetrahydrate | 0.21 mol, 42 g | O.O.O.O.[Fe](Cl)Cl
product | 5-Nitro-1,4-naphthoquinone | [N+](=O)([O-])C1=C2C(C=CC(C2=CC=C1)=O)=O | C10H5NO4
